US08034938B2
(11R)-11-[(methylsulfonyl)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A solution of (11R)-11-[(methylthio)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (640 mg, 2.1 mmol) dissolved in 10 mL of CHCl3 was cooled to 0° C. and treated with MCPBA (50% purity, 1.2 g, 4.3 mmol). The reaction mixture was warmed to ambient temperature over 1 hour. The resulting light brown reaction mixture was treated with 2 N aqueous Na2CO3 solution, diluted with water, and extracted with CHCl3. The organic layer was dried over Na2SO4, filtered and then concentrated under reduced pressure to give a brown oil. Chromatography (SiO2, 0-30% CMA/CHCl3) gave the desired product as an oil. The oil was slurried in acetonitrile to produce a solid which was isolated by filtration to give 250 mg of the title compound as a white solid, mp 158-161° C.

reactant | (11R)-11-[(methylthio)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 2.1 mmol, 640 mg | CSC[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C15H16N4OS
reactant | MCPBA | 4.3 mmol, 1.2 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | 2 N | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (11R)-11-[(methylsulfonyl)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | CS(=O)(=O)C[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C15H16N4O3S
